US05631257
2-[4-(2-Hydroxyethyl)-1-homopiperazinyl]benzoxazole
A 2.329 g portion of homopiperazine dissolved in 10 ml of THF was mixed with 830 mg of iodoethyl alcohol to carry out 24 hours of reaction at room temperature. The reaction mixture was concentrated under a reduced pressure, and the resulting residue was purified by Sephadex LH-20 (Pharmacia) (chloroform:methanol=1:1) and Diaion HP-20 (Mitsubishi Chemicals) to obtain 305 mg of 1-(2-hydroxyethyl)homo-piperazine. Next, Under cooling with ice, 150 mg of 1-(2-hydroxyethyl)homopiperazine and 159 mg of 2-chlorobenzoxazole were added to 3 ml of DMF, and the reaction was carried out for 17 hours at the same temperature and then for 24 hours at room temperature. The reaction mixture was concentrated under a reduced pressure, and the resulting residue was dissolved in 100 ml of ethyl acetate, washed with sodium hydrogencarbonate aqueous solution (pH 8) and water in that order, dehydrated with sodium sulfate and then concentrated under a reduced pressure. Thereafter, the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=30:1) to obtain 72 mg of the title compound.

reactant | 1-(2-hydroxyethyl)homopiperazine | 150 mg | OCCN1CCNCCC1 | C7H16N2O
reactant | 2-chlorobenzoxazole | 159 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-[4-(2-Hydroxyethyl)-1-homopiperazinyl]benzoxazole | 72 mg | OCCN1CCN(CCC1)C=1OC2=C(N1)C=CC=C2 | C14H19N3O2
